US08703768B2
Step 2: 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid dimethylamide
A solution of 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide (100 mg, 0.5 mmol) in ethanol (4 ml) was flushed with argon and treated with Pd/C5% (40 mg, 0.02 mmol). The reaction vessel was evacuated and flushed with hydrogen three times and the reaction was stirred at ambient temperature overnight. The reaction mixture was filtrated and the solvent was evaporated to yield an off-white solid material (83 mg, 98%) which was used without further purification.

reactant | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid dimethylamide | 0.5 mmol, 100 mg | CN(C(=O)C1=NN(C=C1[N+](=O)[O-])C)C | C7H10N4O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd | [Pd] | Pd
product | 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid dimethylamide | 83 mg, 98% | CN(C(=O)C1=NN(C=C1N)C)C | C7H12N4O
